Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Incisional hernia
 
Major Surgical or Invasive Procedure:
___ Laparascopic appendectomy, laparascopic incisional 
hernia repair with mesh (Dr. ___

 
History of Present Illness:
___ admitted for interval lap appy and incisional hernia repair.
 
Past Medical History:
morbid obesity, fatty liver, lung nodule 
 
Social History:
___
Family History:
Grandmother/aunt - breast cancer
Father - lung cancer
Uncle - cholangiocarcinoma 
No family history of inflammatory bowel disease

 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
VS: Temp 97.8F, HR 74, BP 122/73, RR 18, O2 96%RA
General: alert, oriented X3; in no acute distress
Resp: no respiratory distress
CV: RRR, no murmurs, rubs, or gallops
Abd: Soft, incisionally tender, nondistended. 
Extr: no C/C/E
 
Pertinent Results:
___ 04:00PM   SODIUM-140 POTASSIUM-3.7 CHLORIDE-105
___ 04:00PM   MAGNESIUM-2.0
___ 04:00PM   MAGNESIUM-2.0
 
Brief Hospital Course:
Mrs. ___ was admitted to the hospital on ___ following 
elective laparascopic appendectomy with incisional hernia repair 
with mesh. Patient tolerated the procedure well, was advanced to 
regular diet, and her pain was well controlled on oral pain 
medications. She stayed in the hospital overnight for 
observation, and was discharged home on post-op day 1 with plan 
to follow up with Dr. ___ in 2 weeks.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
3. Nystatin-Triamcinolone Ointment 1 Appl TP BID:PRN pannus 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*14 Capsule Refills:*0
3. Nystatin-Triamcinolone Ointment 1 Appl TP BID:PRN pannus 
4. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
Do not drive. Take as prescribed. Do not drink alcohol. 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*42 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incisional hernia, appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___, 

___ were admitted to the hospital following laparascopic 
appendectomy with incisional hernia repair. ___ are now ready to 
be discharged home to complete your recovery there. 

Please follow these instructions to ensure good recovery.

DIET:
___ may resume regular diet as prior to surgery without 
restrictions.

ACTIVITY:
Avoid heavy lifting for ___ weeks after surgery to ensure the 
integrity of your incisions, otherwise ___ may resume regular 
activity as before. ___ may drive and walk without restrictions. 

___ may shower. Your incisions are covered with thin strips of 
tape called Sterristrips. They will fall off on their own, do 
not attempt to remove them as this may rip your stitches. Your 
stitches are dissolvable, they will disappear on their own and 
will not need to be removed. 

MEDICATIONS:
___ may resume your other regular medications as before.

FOLLOW-UP:
___ have an appointment with Dr. ___ up in two weeks. The 
office will call ___ to confirm the appointment.

Thank ___ for letting us participate in your care!

Good luck!
 
Followup Instructions:
___